US06495546B1
Under nitrogen, to a suspension of sodium hydride (60% in oil, 47 mg) in N,N-dimethylformamide (3 ml) was dropwise added 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol (300 mg) in N,N-dimethylformamide (2 ml) at 5° C., and the mixture was stirred at the same temperature for 30 minutes. To this one was added n-propyl bromide (0.10 ml), and the mixture was stirred at the same temperature for 3 hours. The resulting mixture was poured into saturated aqueous sodium hydrogencarbonate, and extracted with ethyl acetate. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The residue was purified by column chromatography on silica gel (hexane:ethyl acetate =50:1 to 30:1) to give N-benzyl-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine (278 mg)

reactant | sodium hydride | 47 mg | [H-].[Na+]
reactant | 8-benzylamino-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-ol | 300 mg | C(C1=CC=CC=C1)NC1CCCC2=C(C1)C=C(C=C2)O | C18H21NO
reactant | n-propyl bromide | 0.10 ml | CCCBr | C3H7Br
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-benzyl-(3-isopropoxy-6,7,8,9-tetrahydro-5H-benzocyclohepten-6-yl)amine | 278 mg | C(C1=CC=CC=C1)NC1CC2=C(CCC1)C=CC(=C2)OC(C)C | C21H27NO
